US05250690
2-(4-((5-Chloro-3-fluoro-2-pyridinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide
A solution of 4.8 mmol of 2-(4-((5-chloro-3-fluoro-2-pyridinyl)oxy)phenoxy)propanoyl chloride (previously prepared from the corresponding acid) in 15 ml of methylene chloride was added, under N2, to an ice-cooled mixture of 1.03 g (4.8 mmol) of 4-(trifluoromethoxy)aniline hydrochloride, 0.95 g (12 mmol) of pyridine and 25 ml of methylene chloride. The resulting mixture was stirred at ambient temperature overnight and then poured into dilute aqueous HCl. The aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were washed twice with saturated aqueous sodium bicarbonate, treated with charcoal and MgSO4 and filtered. The filtrates were evaporated to dryness and the residue recrystallized from methylcyclohexane to give 0.34 g of the above-named product as colorless crystals, m.p. 92°-93.5° C. (Compound 37)

reactant | 2-(4-((5-chloro-3-fluoro-2-pyridinyl)oxy)phenoxy)propanoyl chloride | 4.8 mmol | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)Cl)C)C=C1)F | C14H10Cl2FNO3
reactant | 4-(trifluoromethoxy)aniline hydrochloride | 4.8 mmol, 1.03 g | Cl.FC(OC1=CC=C(N)C=C1)(F)F
reactant | pyridine | 12 mmol, 0.95 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-((5-Chloro-3-fluoro-2-pyridinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide | 0.34 g | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1)F | C21H15ClF4N2O4
